US07196111B2
A mixture of 60 mg (0.126 mmol) of 7-cyclohexyl-6-(4-iodo-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid ethyl ester, 29 mg (0.19 mmol, 1.5 equiv) of 3-methoxyphenylboronic acid, 5 mg (0.0063 mmol, 5 mol %) of Pd catalyst, and 80 mg (0.378 mmol, 3 equiv) of potassium phosphate was placed into a carousel tube. After a vacuum and argon cycle, 1,4-dioxane (3 mL) was added, and the resulting mixture was heated at 80° C. under argon for 14 h. Since analysis by LC-MS revealed unreacted starting material still present, 29 mg (0.19 mmol, 1.5 equiv) of 3-methoxyphenylboronic acid, 10 mg (0.012 mmol, 10 mol %) of Pd catalyst, and 80 mg (0.378 mmol, 3 equiv) of potassium phosphate was added and heating was continued for 24 h. The reaction mixture was then diluted with ethyl acetate, filtered through a small pad of Celite, dried over sodium sulfate and evaporated to give a brown residue (crude coupling product), which was chromatographed on silica gel (Biotage; gradient elution 2% to 5% ethyl acetate in dichloromethane) to afford 47 mg (82% yield) of desired 7-cyclohexyl-6-(3′-methoxy-biphenyl-4-yl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid ethyl ester as indicated by 1H NMR; LC-MS—calcd for C28H29N3O3 [M++H]+: 456.22, found: 456.2.

reactant | 7-cyclohexyl-6-(4-iodo-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid ethyl ester | 0.126 mmol, 60 mg | C(C)OC(=O)C=1C=NN2C1N=CC(=C2C2CCCCC2)C2=CC=C(C=C2)I | C21H22IN3O2
reactant | 3-methoxyphenylboronic acid | 0.19 mmol, 29 mg, 1.5 equiv | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | potassium phosphate | 0.378 mmol, 80 mg, 3 equiv | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
reactant | 3-methoxyphenylboronic acid | 0.19 mmol, 29 mg, 1.5 equiv | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | potassium phosphate | 0.378 mmol, 80 mg, 3 equiv | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | Pd | 0.0063 mmol, 5 mg | [Pd] | Pd
catalyst | Pd | 0.012 mmol, 10 mg | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-cyclohexyl-6-(3′-methoxy-biphenyl-4-yl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid ethyl ester | 47 mg, 82% yield | C(C)OC(=O)C=1C=NN2C1N=CC(=C2C2CCCCC2)C2=CC=C(C=C2)C2=CC(=CC=C2)OC | C28H29N3O3
